US07842713B2
Preparation of Intermediate 328e: Ethyl 2-methyl-7-(1-methyl-2-phenylethoxy)-1-benzothiophene-5-carboxylate
To a solution of ethyl 7-hydroxy-2-methyl-1-benzothiophene-5-carboxylate (500 mg, 2.12 mmol), Ph3P (1110 mg, 4.23 mmol) and 1-phenyl-2-propane (576 mg, 4.23 mmol) in CH2Cl2 (20 mL) was added DIAD (856 mg, 4.23 mmol) drop wise at 0° C. The resulting solution was stirred at room temperature for 4 h. The reaction mixture was concentrated to give an oil residue. The residue was purified by HPLC to give the title compound (500 mg, 67%) as a colorless oil. 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 1.36-1.47 (m, 6 H) 2.59 (d, J=1.13 Hz, 3 H) 2.84-3.00 (m, 1 H) 3.10-3.27 (m, 1 H) 4.38 (q, J=7.16 Hz, 2 H) 4.71-4.93 (m, 1 H) 7.01 (d, J=1.13 Hz, 1 H) 7.26-7.33 (m, 5 H) 7.35 (s, 1 H) 7.97 (d, J=1.13 Hz, 1 H).

reactant | ethyl 7-hydroxy-2-methyl-1-benzothiophene-5-carboxylate | 2.12 mmol, 500 mg | OC1=CC(=CC=2C=C(SC21)C)C(=O)OCC | C12H12O3S
reactant | Ph3P | 4.23 mmol, 1110 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 4.23 mmol, 856 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-methyl-7-(1-methyl-2-phenylethoxy)-1-benzothiophene-5-carboxylate | 500 mg, 67% | CC=1SC2=C(C1)C=C(C=C2OC(CC2=CC=CC=C2)C)C(=O)OCC | C21H22O3S
